US04335048
A mixture of ethyl 2,3-dihydro-5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate and N-bromosuccinimide (1.1 g) was heated at reflux in carbon tetrachloride (100 ml) for 6 hours. The solution was cooled, washed with water, dried and evaporated. The solid residue was crystallised from ethanol giving ethyl 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate identical in all respects with authentic material.

reactant | ethyl 2,3-dihydro-5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate | OC(COC1=CC=C(C2=C1C(CC(O2)C(=O)OCC)=O)CCC)C | C18H24O6
reactant | N-bromosuccinimide | 1.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate | OC(COC1=CC=C(C2=C1C(C=C(O2)C(=O)OCC)=O)CCC)C | C18H22O6
